US05180742
In methanol (90 ml) was dissolved 9.00 g (30 mmole) methyl 6-[4-(1-imidazolyl)benzoyl]hexanoate, and the solution was stirred under ice-cooling. 0.86 Gram (30×0.75 mmole) of of sodium boron hydride was added to it, and stirring was continued for 30 minutes under ice-cooling. After acetone was added, the solvent was distilled off, and chloroform and water were added to the residue to effect extraction. The chloroform layer was separated out, washed with aqueous sodium chloride solution, dried (magnesium sulfate) and evaporated to give 9.10 g (100%) of methyl 7-hydroxy-7-[4-(1-imidazolyl)phenyl]heptanoate (part of the compound was recrystallized from ethyl acetate/isopropyl ether. m.p. 77°-78° C.).

reactant | methyl 6-[4-(1-imidazolyl)benzoyl]hexanoate | 30 mmole, 9.00 g | N1(C=NC=C1)C1=CC=C(C(=O)CCCCCC(=O)OC)C=C1 | C17H20N2O3
reactant | sodium boron hydride | B.[Na]
reactant | acetone | CC(=O)C | C3H6O
solvent | methanol | 90 ml | CO | CH4O
product | methyl 7-hydroxy-7-[4-(1-imidazolyl)phenyl]heptanoate | 9.10 g, 100% | OC(CCCCCC(=O)OC)C1=CC=C(C=C1)N1C=NC=C1 | C17H22N2O3
